US08633189B2
Diethyl malonate (1059 mg, 1.0 mL, 6.6 mmol) was added dropwise to a suspension of NaH (265 mg, 6.6 mmol) in DMSO (3.3 mL). The reaction mixture was warmed to 60° C. for 30 min. A solution of 1-benzyloxy-4-bromo-2-cyclopentyl-5-nitro-benzene (995 mg, 2.6 mmol) in DMSO (3 mL) was added dropwise and the reaction mixture heated at 100° C. for 2 h. The cooled solution was poured into ice water, and the aqueous layer extracted with dichloromethane (3×20 mL). The organic layer was dried down to an orange residue. Purification by silica gel chromatography (0-40% ethyl acetate/hexane) provided diethyl 2-(4-(benzyloxy)-5-cyclopentyl-2-nitrophenyl)malonate as a yellow oil (538 mg, 45% yield). LC/MS m/z 456.2 [M+H]+.

reactant | Diethyl malonate | 6.6 mmol, 1.0 mL, 1059 mg | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | NaH | 6.6 mmol, 265 mg | [H-].[Na+]
reactant | 1-benzyloxy-4-bromo-2-cyclopentyl-5-nitro-benzene | 2.6 mmol, 995 mg | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)[N+](=O)[O-])Br)C1CCCC1 | C18H18BrNO3
solvent | DMSO | 3.3 mL | CS(=O)C | C2H6OS
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | diethyl 2-(4-(benzyloxy)-5-cyclopentyl-2-nitrophenyl)malonate | 538 mg, 45% yield | C(C1=CC=CC=C1)OC1=CC(=C(C=C1C1CCCC1)C(C(=O)OCC)C(=O)OCC)[N+](=O)[O-] | C25H29NO7
